US07071201B2
Example 151: Synthesis of 1-[1-(4-fluorophenethyl)-piperdin-4-yl]-6-(isopropylcarbamoylmethyl)indoline
Under ice cooling, 1,1′-carbonyldimidazole (15 g) was added to a solution of 1-[1-(4-fluorophenethyl)piperidin-4-yl]-6-carboxymethylindoline (30 g) in dimethylformamide (240 ml) and the resultant mixture was stirred for 2 hr. After adding isopropylamine (5.6 g), the mixture was warmed to room temperature and then stirred for additional 2 hr. Next, ice water (240 ml) and ethyl acetate (300 ml) were added to the reaction solution and the layers were separated. The organic layer was washed successively with water, a saturated aqueous solution of sodium bicarbonate and brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was dissolved in hot ethyl acetate (80 ml). After allowing to cool to room temperature, the resulting crystals were collected by filtration to give the title compound (17.2 g) as a white powder (yield: 52%).

reactant | 1,1′-carbonyldimidazole | 15 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1-[1-(4-fluorophenethyl)piperidin-4-yl]-6-carboxymethylindoline | 30 g | FC1=CC=C(CCN2CCC(CC2)N2CCC3=CC=C(C=C23)CC(=O)O)C=C1 | C23H27FN2O2
reactant | isopropylamine | 5.6 g | C(C)(C)N | C3H9N
reactant | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 240 ml | CN(C=O)C | C3H7NO
product | 1-[1-(4-fluorophenethyl)-piperdin-4-yl]-6-(isopropylcarbamoylmethyl)indoline | 17.2 g, yield: 52% | FC1=CC=C(CCN2CCC(CC2)N2CCC3=CC=C(C=C23)CC(NC(C)C)=O)C=C1 | C26H34FN3O
